US07399775B2
5-[(4-Chlorophenyl)sulfonyl]-5-(2,5-difluorophenyl)-1-pentanol
In methanol (30 ml) was dissolved 2-[1-[(4-chlorophenyl)sulfonyl]-5-vinyloxypentyl]-1,4-difluorobenzene (0.90 g, 2.3 mmol). After addition of p-toluenesulfonic acid monohydrate (20 mg, 0.11 mmol), the resulting mixture was stirred at room temperature for 14 hours. The reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=3:2) to yield a white solid. The resulting white solid was washed with diisopropyl ether, whereby the title compound (0.73 g, 85%) was obtained as a white powder.

reactant | 2-[1-[(4-chlorophenyl)sulfonyl]-5-vinyloxypentyl]-1,4-difluorobenzene | 2.3 mmol, 0.90 g | ClC1=CC=C(C=C1)S(=O)(=O)C(CCCCOC=C)C1=C(C=CC(=C1)F)F | C19H19ClF2O3S
reactant | p-toluenesulfonic acid monohydrate | 0.11 mmol, 20 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 30 ml | CO | CH4O
product | 5-[(4-Chlorophenyl)sulfonyl]-5-(2,5-difluorophenyl)-1-pentanol | ClC1=CC=C(C=C1)S(=O)(=O)C(CCCCO)C1=C(C=CC(=C1)F)F | C17H17ClF2O3S
